US03984422
f. 4-Hydroxy-3-methyl-1H-pyrazolo[4,3-c]pyridine-7-carboxylic acid ethyl ester
8.4 g. of 3-acetyl-4-butylamino-2-hydroxypyridine-5-carboxylic acid ethyl ester (0.03 mol.) are dissolved in 20 ml. of acetic acid, 3 ml. of hydrazine-hydrate are added and the mixture is refluxed for 5 hours. After this time, the solvent is removed in vacuo and the crystalline precipitate of 4-hydroxy-3-methyl-1H-pyrazolo[4,3-c]pyridine-7-carboxylic acid ethyl ester is recrystallized from acetic acid, yield 5.1 g. (77%), m.p. 310°.

reactant | 3-acetyl-4-butylamino-2-hydroxypyridine-5-carboxylic acid ethyl ester | 0.03 mol | C(C)OC(=O)C=1C(=C(C(=NC1)O)C(C)=O)NCCCC | C14H20N2O4
reactant | hydrazine-hydrate | O.NN
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 4-Hydroxy-3-methyl-1H-pyrazolo[4,3-c]pyridine-7-carboxylic acid ethyl ester | C(C)OC(=O)C=1C2=C(C(=NC1)O)C(=NN2)C | C10H11N3O3
